US06509328B1
3-(3-Cyano-phenyl)-3-oxo-propionic Acid tert-Butyl Ester
Prepared from methyl 3-cyanobenzoate [CAS-No. 13531-48-1] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as a light brown oily semisolid.

reactant | methyl 3-cyanobenzoate | C(#N)C=1C=C(C(=O)OC)C=CC1 | C9H7NO2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-(3-Cyano-phenyl)-3-oxo-propionic Acid tert-Butyl Ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C#N)=O | C14H15NO3
